US07074799B2
Reflux a mixture of 7-(3-chloro-pyridin-2-yl)-2-methoxymethyl-3H-pyrido[2,3-d]pyrimidin-4-one (0.25 g), 2,6-lutidine (0.44 g), and POCl3 (0.51 g) in CHCl3 (5 mL) for 20 hours. Cool the mixture and concentrate under reduced pressure. Partition the residue between EtOAc and saturated NaHCO3 solution. Wash the EtOAc portion with additional NaHCO3 and then dry (Na2SO4) and concentrate under reduced pressure. Filter the brown residue through 2 inches of silica gel (1:1 EtOAc/hexanes eluent) and concentrate under reduced pressure to give 4-chloro-7-(3-chloro-pyridin-2-yl)-2-methoxymethyl-pyrido[2,3-d]pyrimidine.

reactant | 7-(3-chloro-pyridin-2-yl)-2-methoxymethyl-3H-pyrido[2,3-d]pyrimidin-4-one | 0.25 g | ClC=1C(=NC=CC1)C=1C=CC2=C(N=C(NC2=O)COC)N1 | C14H11ClN4O2
reactant | 2,6-lutidine | 0.44 g | N1=C(C=CC=C1C)C | C7H9N
reactant | POCl3 | 0.51 g | O=P(Cl)(Cl)Cl | Cl3OP
solvent | CHCl3 | 5 mL | C(Cl)(Cl)Cl | CHCl3
product | 4-chloro-7-(3-chloro-pyridin-2-yl)-2-methoxymethyl-pyrido[2,3-d]pyrimidine | ClC=1C2=C(N=C(N1)COC)N=C(C=C2)C2=NC=CC=C2Cl | C14H10Cl2N4O
